US05591735
Preparation of 1-[3α,17β-bis(acetyloxy)-2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-5α-androstan-16β-yl]-1-(2-propenyl)pyrrolidinium bromide
After adding 20 ml of allyl bromide to a solution containing 13 g of 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol-diacetate in 100 ml of acetone, the reaction mixture is kept for 24 hours at room temperature. After completion of the reaction, the product is precipitated by ether, filtered, washed with a mixture of ether and acetone until it becomes free from allyl bromide and dried. The quaternary compound (13.4 g) thus obtained is purified by chromatography on a silica gel column. After evaporating the combined fraction containing the aimed product, the residue is recrystallized from a mixture of acetone and ether to obtain the title product in a yield of 9 g (55.8%), m.p.: 186°-189° C.

reactant | allyl bromide | 20 ml | C(C=C)Br | C3H5Br
reactant | 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol diacetate | 13 g | O1CCOC12CCN(CC2)[C@@H]2[C@H](C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2)O.CC(=O)CC(=O)O
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-[3α,17β-bis(acetyloxy)-2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-5α-androstan-16β-yl]-1-(2-propenyl)pyrrolidinium bromide | 13.4 g | [Br-].C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCC2(OCCO2)CC1)C)OC(C)=O)[N+]1(CCCC1)CC=C | InChI=1S/C37H59N2O6.BrH/c1-6-17-39(18-7-8-19-39)32-23-30-28-10-9-27-22-33(44-25(2)40)31(38-15-13-37(14-16-38)42-20-21-43-37)24-36(27,5)29(28)11-12-35(30,4)34(32)45-26(3)41;/h6,27-34H,1,7-24H2,2-5H3;1H/q+1;/p-1/t27-,28+,29-,30-,31-,32-,33-,34-,35-,36-;/m0./s1
